US05780472
1-[(2-methoxy-5,6,7,8-tetrahydroisoquinolin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine
Phenyl-N-(2-methoxy-5,6,7,8-tetrahydroisoquinolin-3-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(2-methoxy-5,6,7,8-tetrahydroisoquinolin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1N(CC=2CCCCC2C1)OC)=O | C17H20N2O3
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(2-methoxy-5,6,7,8-tetrahydroisoquinolin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | yield: 64% | CON1CC=2CCCCC2C=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C22H30N4O3
